US04173645
1-(2-Ethyl-phenyl)-3-methyl-4,5-dihydroxy-imidazolidine-2-thione
30.0 g of N-(2-ethyl-phenyl)-N'-methyl-thiourea were stirred in 200 ml of dimethoxyethane and 10 ml of triethylamine, and 36.0 g of a 30% strength aqueous glyoxal solution were added. The mixture was stirred for 1 hour at 20° C. and for 1 hour at 50° C., the thiourea dissolving completely. The solvent was distilled off in vacuo, the residue was stirred with water and a little dilute acetic acid and the oily reaction product was taken up in methylene chloride. The methylene chloride solution was washed with water, dried over potassium carbonate, concentrated and completely freed from the solvent at 60°/1.0 mm Hg. This gave 26.0 g of the reaction product as a viscous oil which slowly solidified. The elementary analysis and the NMR spectra were in agreement with the supposed structure.

reactant | N-(2-ethyl-phenyl)-N'-methyl-thiourea | 30.0 g | C(C)C1=C(C=CC=C1)NC(=S)NC | C10H14N2S
reactant | glyoxal | C(=O)C=O | C2H2O2
reactant | thiourea | NC(=S)N | CH4N2S
solvent | dimethoxyethane | 200 ml | C(OC)COC | C4H10O2
solvent | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
product | 1-(2-Ethyl-phenyl)-3-methyl-4,5-dihydroxy-imidazolidine-2-thione | C(C)C1=C(C=CC=C1)N1C(N(C(C1O)O)C)=S | C12H16N2O2S
